US06197959B1
In analogy to the procedure described in example 1(e), the (3R,4R)-3-[1-(2-sulfamoylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was deprotected with zinc bromide in 1,2-dichloroethane to yield the (3R,4R)-N-[2-[7-[4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-3,4-dihydro-2H-quinolin-1-yl]-ethyl]-sulfamide as a yellow oil; MS: 639 (M+H)+.

reactant | (3R,4R)-3-[1-(2-sulfamoylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCNS(N)(=O)=O | C39H54N4O8S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | zinc bromide | [Br-].[Zn+2].[Br-]
product | (3R,4R)-N-[2-[7-[4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidin-3-yloxymethyl]-3,4-dihydro-2H-quinolin-1-yl]-ethyl]-sulfamide | COC1=C(COCCCOC2=CC=C(C=C2)[C@@H]2[C@H](CNCC2)OCC2=CC=C3CCCN(C3=C2)CCNS(=O)(=O)N)C=CC=C1 | C34H46N4O6S
